US06875765B2
To a solution of 3-[4-carbamoyl-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester (0.18 g, 0.34 mmol) in dichloromethane (10 mL) and water (0.1 mL) was added trifluoroacetic acid (1 mL). The reaction was stirred for 2 hours at room temperature. The reaction was then concentrated under reduced pressure to yield a colorless oil. The residue was purified by HPLC using a gradient of 10% to 50% acetonitrile containing 0.1% TFA and water at containing 0.1% TFA over 140 minutes to yield 3-[4-carbamoyl-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid as a lyophilized as a white solid (0.045 g, 28%). MS(APCI) m/z 471.0 (M+1).

reactant | 3-[4-carbamoyl-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | 0.34 mmol, 0.18 g | C(C)(C)(C)OC(CC(C=O)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)OCCC1=CC=CC2=CC=CC=C12)=O | C27H30N2O7S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 0.1 mL | O | H2O
product | 3-[4-carbamoyl-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid | C(N)(=O)C1=CC(=C(C=C1)S(=O)(=O)NC(CC(=O)O)C=O)OCCC1=CC=CC2=CC=CC=C12 | C23H22N2O7S
